US07320995B2
1-isopropylsulfonyl-2-amino-6-(2-(piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole
Vigorously stir a mixture of 1-isopropylsulfonyl-2-amino-6-(2-(1-(benzyloxycarbonyl)piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole (0.74 g, 1.24 mmol), ammonium formate (4.94 mmol), and 10% palladium on carbon (0.12 mmol) in 30 mL absolute ethanol at reflux for 5 hours. Cool the reaction mixture to room temperature, filter through a bed of Celite®, and concentrate the filtrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 19:1 dichloromethane:methanol to provide the title compound. MS(ES+): m/z=465.2 (M+H)+

reactant | 1-isopropylsulfonyl-2-amino-6-(2-(1-(benzyloxycarbonyl)piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | 1.24 mmol, 0.74 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)N | C32H34N6O4S
reactant | ammonium formate | 4.94 mmol | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.12 mmol | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-isopropylsulfonyl-2-amino-6-(2-(piperidin-4-yl)-5-(phenyl)-imidazol-4-yl)-benzimidazole | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C=2N=C(NC2C2=CC=CC=C2)C2CCNCC2)N | C24H28N6O2S
